US04318909
N-[(5-Chloro-2-fluorophenyl)methyl]-N-methyl-3-hydroxy-3-phenylpropylamine
A solution of 5-chloro-2-fluorobenzyl bromide (10.5 g) in acetonitrile (100 ml) was added dropwise to a mixture of N-methyl-3-hydroxy-3-phenylpropylamine (7.7 g), 2,2,6,6-tetramethylpiperidine (8 ml) and acetonitrile (100 ml). After 12h the mixture was filtered, and filtrate evaporated and the residue chromatographed on silica (Woelm Grade 1) using ether as eluant to give the title compound as an oil (10.5 g), b.p. 160°/0.5 mm. (Found: C, 66.1; H, 6.2; N, 4.1%; C17H19ClFNO requires: C, 66.3; H, 6.2; N, 4.55%).

reactant | 5-chloro-2-fluorobenzyl bromide | 10.5 g | ClC=1C=CC(=C(CBr)C1)F | C7H5BrClF
reactant | N-methyl-3-hydroxy-3-phenylpropylamine | 7.7 g | CNCCC(C1=CC=CC=C1)O | C10H15NO
reactant | 2,2,6,6-tetramethylpiperidine | 8 ml | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-[(5-Chloro-2-fluorophenyl)methyl]-N-methyl-3-hydroxy-3-phenylpropylamine | 10.5 g | ClC=1C=CC(=C(C1)CN(C)CCC(C1=CC=CC=C1)O)F | C17H19ClFNO
